US05539074
2.0 g of 4-methoxybenzoyl chloride in 25 ml of dichlormethane were added dropwise at 0° C. while stirring within 30 min. to a solution of 3.5 g of 4-methacryloyloxybutyl (E)-3-(4-hydroxyphenyl)acrylate and 1.2 g of triethylamine in 40 ml of dichloromethane. The reaction mixture was stirred at room temperature overnight, then filtered and subsequently concentrated. Chromatographic purification of the residue on silica gel with hexane/ethyl acetate (vol. 7:3) and two-fold recrystallization from ethanol gave 4.5 g of 4-methacryloyloxybutyl (E)-3-[4-(4-methoxyphenylcarbonyloxy)phenyl]acrylate, m.p. 89°-90° C.

reactant | 4-methoxybenzoyl chloride | 2.0 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | 4-methacryloyloxybutyl (E)-3-(4-hydroxyphenyl)acrylate | 3.5 g | OC1=CC=C(C=C1)/C=C/C(=O)OCCCCOC(C(=C)C)=O | C17H20O5
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
solvent | dichlormethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-methacryloyloxybutyl (E)-3-[4-(4-methoxyphenylcarbonyloxy)phenyl]acrylate | 4.5 g | COC1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)/C=C/C(=O)OCCCCOC(C(=C)C)=O | C25H26O7
